*****< 全高調波歪用テストベンチ >*****
.lib THD

*****< Parameters >*****
.param half='psvoltage/2'
.param valr1=10k
.param valr2=10k
.op

*****< Power_Supply >*****
VDD	vdd gnd	PULSE 0 half 0 0.1n 0.1n 1.5015 2.002
VSS	gnd vss	PULSE 0 half 0 0.1n 0.1n 1.5015 2.002

******< Input >******
VIN	inp gnd SIN 0 2.5m 100 1m

*****< Circuit Topology >*****
Xthd inm inp out vdd vss opamp
R1 inm gnd valr1
R2 out inm valr2

******< Control >******
.TRAN 10n 1.001 START='1.001-10m'
.FOUR 100 V(out)
.TEMP 25

.endl
